US09102614B2
Preparation of 1-hydroxy-3-methyl-2-naphthonitrile:
Phenyl-2-propanone (24.93 g, 0.178 mol) was combined with ethylcyanoacetate (19.8 mL, 0.180 mol), acetic acid (8.0 mL, 0.14 mol), ammonium acetate (2.82 g, 0.0370 mol) and 80 mL of benzene in a round bottom flask equipped with a Dean-Stark trap and condenser cooled by a chiller. The reaction was heated to 160° C. for 4 h. The mixture was removed from heat and the trap drained so that the mixture could be concentrated by distilling off excess (˜50 mL) benzene. The solution contained crude (E)-ethyl 2-cyano-3-methyl-4-phenylbut-2-enoate. The concentrated mixture was removed from heat and heat adjusted to 240° C. Acetamide (50.9483 g, 0.862 mol) was added, and a Claisen head attached to distill any ethanol resulting while the mixture was heated at 240° C. for 60-90 minutes. The mixture was cooled to ˜100° C., and poured into room temperature water to quench the reaction. A clumpy orange solid was formed, removed by filtration and triturated with ice cold absolute EtOH. The solid was filtered off and the process repeated 4 times to harvest additional material. The resulting product was a pale yellow fine powder (13.20 g, 36% yield). 1H-NMR: (300 MHz, DMSO-d6): δ 11.28 (s, 1H); 8.24 (d, J=8.4 Hz, 1H); 7.80 (d, J=8.0 Hz, 1H); 7.62-7.58 (m, 1H); 7.52-7.48 (m, 1H); 7.34 (s, 1H); 2.47 (s, 3H).

reactant | Phenyl-2-propanone | 0.178 mol, 24.93 g | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | ethylcyanoacetate | 0.180 mol, 19.8 mL | C(C)OC(CC#N)=O | C5H7NO2
reactant | acetic acid | 0.14 mol, 8.0 mL | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 0.0370 mol, 2.82 g | C(C)(=O)[O-].[NH4+]
reactant | Acetamide | 0.862 mol, 50.9483 g | C(C)(=O)N | C2H5NO
solvent | benzene | 80 mL | C1=CC=CC=C1 | C6H6
product | 1-hydroxy-3-methyl-2-naphthonitrile | 13.20 g, 36% yield | OC1=C(C(=CC2=CC=CC=C12)C)C#N | C12H9NO
